US07825128B2
37) 3-(5-Bromo-2-chloro-pyrimidin-4-yloxy)-propionic acid tert-butyl ester
2,4-Dichloro-5-bromopyrimidine (7.98 g, 35 mmol) is dissolved in DMF (35 ml) and Cs2CO3 (11.4 g, 35 mmol) and 3-hydroxy-propionic acid tert-butyl-ester (5.12 g, 35 mmol) are added. The reaction mixture is stirred for 5 h at rt. The reaction mixture is diluted with brine and the extracted with ethyl acetate (3×). The organic layers are washed with brine, dried over sodiumsulfat and evaporated to dryness. The crude product is used for the following reaction without any further purification.

reactant | 2,4-Dichloro-5-bromopyrimidine | 35 mmol, 7.98 g | ClC1=NC=C(C(=N1)Cl)Br | C4HBrCl2N2
reactant | Cs2CO3 | 35 mmol, 11.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-hydroxy-propionic acid tert-butyl-ester | 35 mmol, 5.12 g | C(C)(C)(C)OC(CCO)=O | C7H14O3
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3-(5-Bromo-2-chloro-pyrimidin-4-yloxy)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCOC1=NC(=NC=C1Br)Cl)=O | C11H14BrClN2O3
